US08536179B2
24c) 6-Bromo-1-isopropyl-3-methyl-1H-indole-4-carboxylic acid
To a stirred solution of methyl 6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxylate (24 g, 77.4 mmol) in ethanol (400 mL) was added sodium hydroxide (4.02 g, 100.6 mmol), water (11 mL) and the mixture was stirred at reflux condition for 6 h. Ethanol was distilled off and residue was diluted with water, extracted with ethylacetate (40 mL) adjusted aqueous layer to PH-3 with 1N HCl and extracted with ethyl acetate (3×250 mL), finally organic layer was washed with brine solution, dried over anhydrous Na2SO4 and concentrated. The crude was washed with pet ether, filtered the solid and dried to afford desired product 6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxylic acid (20.6 g, 89.8%).

reactant | methyl 6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxylate | 77.4 mmol, 24 g | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)OC | C14H16BrNO2
reactant | sodium hydroxide | 100.6 mmol, 4.02 g | [OH-].[Na+]
reactant | water | 11 mL | O | H2O
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxylic acid | 20.6 g, 89.8% | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)O | C13H14BrNO2
